Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Pork/Porcine Containing Products
 
Attending: ___.
 
Chief Complaint:
thyroid nodule
 
Major Surgical or Invasive Procedure:
total thyroidectomy and central neck dissection

 
History of Present Illness:
PER ___ is a ___ who is presenting for surgical 
evaluation of recently diagnosed medullary thyroid carcinoma. He 
had a known R thyroid nodule reportedly found incidentally on a 
CT chest in ___ that was done for evaluation of a lung nodule.
This nodule was further evaluated w/ U/S, noted to be 1.4 cm in 
diam, and FNA was performed in ___, cytology of which was 
___ III w/ AUS w/ atypical spindle cells. He was referred 
to endocrinology this year, and the nodule was re-evaluated w/ 
repeat U/S ___ which showed roughly unchanged sized nodule,
but repeat FNA revealed medullary thyroid carcinoma (___ 
VI), and was thus referred here. He has a diffuse constellation 
of sx, including sweats, hoarseness, weight gain, intermittent 
chest pain and palpitations, severe h/a's (ever since sustaining 
a TBI), occasional odynophagia, diffuse 
arthralgias/myalgias/bony pain, and ?SOB/difficulty breathing at 
night when sleeping (notes stops breathing at night 
intermittently after snoring). Of note,
his w/u thus far shows mildly elevated 24hr urine metanephrines 
(1068), normal chromogranin A (34), elevated calcitonin (29), 
normal TSH (2.3), and CEA 3.1. Plasma metanephrines are pending.

10-point review of symptoms was obtained and noted as above.
 
Past Medical History:
OBESITY                                                         
CHRONIC LOW BACK PAIN                                           
MRI L-spine (___) - epidural lipomatosis and multilevel       
degenerative changes  with spinal stenosis L5S1                 
CHRONIC CONSTIPATION                                            
HEAD TRAUMA                                                     
ABNORMAL LIVER FUNCTION TESTS                                   
GASTRITIS                                                       
THYROID NODULE         
 
Social History:
___
Family History:
N/A
 
Physical Exam:
Gen: well-appearing, comfortable, in no acute distress
HEENT: wound appears cdi. No dehiscence, bleeding, discharge. No 
masses. No hematomas.
Card: RRR, normal S1 and S2, no murmurs rubs or gallops
Pulm: CTAB in anterior fields, no respiratory distress 
Abd: obese, soft, nontender, no masses, no distention
Neuro: ___ finger grip strength bilaterally; gross sensation is 
intact. L facial nerve paresthesia with finger percussion no 
longer present. Minimally perceptible eyelid twitching with 
percussion of L facial nerve. 
Skin: warm, dry, no rashes

 
Pertinent Results:
___ 04:24PM BLOOD Calcium-9.1
___ 11:10AM BLOOD Calcium-8.3*
___ 06:20AM BLOOD Calcium-8.0*
___ 03:40PM BLOOD Albumin-4.3 Calcium-8.1* Phos-5.7* Mg-2.1

___ 03:57PM BLOOD freeCa-0.98*

___ 04:24PM BLOOD PTH-6*
___ 11:10AM BLOOD PTH-6*
___ 06:20AM BLOOD PTH-5*

___ 03:40PM BLOOD Glucose-111* UreaN-16 Creat-0.7 Na-140 
K-3.8 Cl-101 HCO3-28 AnGap-11

 
Brief Hospital Course:
Mr. ___ presented to ___ holding at ___ on ___ 
for total thyroidectomy and central neck dissection for 
medullary thyroid cancer. He tolerated the procedure well 
without complications (Please see operative note for further 
details).  His clinical status is stable; lab findings 
concerning for low PTH. PACU pth, calcium 9.1. Postoperatively, 
started on calcium supplement 1000 tid PO. At that time, patient 
denied symptoms of hypocalcemia such as perioral or extremity 
paresthesias. On POD1, calcium level fell to 8.3, pth 6 
therefore was started on calcitriol 0.25mcg bid. Due to concerns 
for hypocalcemia and hypoparathyroidism post thyroidectomy, he 
was admitted for continued electrolyte monitoring. 

On POD2, pt began complaining of bilateral arm paresthesias as 
well as L face paresthesias with light finger percussion along 
the facial nerve. Ca2+ POD2 was 8.0 and with new symptoms, labs 
were repeated the same day which showed stable Ca2+ of 8.1. 
Facial paresthesias resolved later on POD2 ___. Pt was discharged 
with instructions to have a repeat calcium lab draw on ___ 
___. Bilateral arm paresthesias were likely due to 
positioning in the OR.

Neuro: Pain with neck incisional discomfort. patient also 
reported L shoulder pain /swelling and had limited ROM. L 
shoulder XR performed which was acutely normal. POD2 pt began 
experiencing L facial paresthesias, bilateral arm parethesias. 
Repeat calcium levels were drawn, found to be stable. Pt advised 
to have repeat Ca2+ outpt on ___.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. He had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI: The patient was advanced to and tolerated a regular diet. 
Patient's intake and output were closely monitored.
GU: The patient voided without difficulty. Urine output was 
monitored as indicated.
ID: The patient was closely monitored for signs and symptoms of 
infection and fever, of which there was none.
MSK: Pt began complaining of L arm pain postoperatively and was 
unable to lift his arm >90degrees. This improved with pain 
medications, ___.
Endocrine: POD #1,started on levothyroxine 200 mcg daily. As 
previously mentioned POD#1 calcium level dropped to 8.3,PTH 6. 
........
Heme: The patient was encouraged to get up and ambulate as early 
as possible. 

On ___, the patient was discharged to home. At discharge, he 
was tolerating a regular diet, voiding, and ambulating 
independently. He will follow-up in the clinic in ___ weeks with 
Dr. ___. The patient was informed that he will have orders for 
a repeat Calcium level on ___. This information was 
communicated to the patient directly prior to discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
2. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Calcitriol 0.25 mcg PO BID 
RX *calcitriol 0.25 mcg 1 capsule(s) by mouth twice a day Disp 
#*60 Capsule Refills:*0 
2.  Calcium Carbonate 1000 mg PO TID 
RX *calcium carbonate 400 mg calcium (1,000 mg) 1 tablet(s) by 
mouth three times a day Disp #*90 Tablet Refills:*0 
3.  Levothyroxine Sodium 200 mcg PO DAILY 
RX *levothyroxine 200 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
medullary thyroid cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
**You must go and get your calcium level drawn on ___.

Mr. ___,
You were admitted to ___ overnight for observation following 
your surgery.You did well postoperatively and were discharged 
home once you were eating, on oral medications, walking, and 
completing daily activities per normal. 
Medications: You were started on thyroid hormone medication, and 
calcium supplement, take as prescribed. For pain medication you 
may take acetaminophen (Tylenol) or ibuprofen (Motrin). You may 
restart all your usual home medications.

Symptoms of low calcium: If you develop tingling or numbness 
around your mouth, fingertips or legs, this may be a sign of a 
low calcium and you should call our office. If you develop 
severe symptoms, please go to emergency room.

Wound care:You may shower normally. Allow warm soapy water to 
run over the wound, rinse and pat dry gently. There is no need 
to keep a dressing over the wound. Do not apply creams or 
ointments. Do not submerge the wound in a swimming pool or bath 
until cleared at your follow up visit. Do  not pull off the 
steri strip tapes--these will fall off by themselves over the 
next ___ weeks.

Diet:You may resume your regular home diet without restriction. 
You 
should use stick to foods that do not upset your stomach. You 
may need to start with small meals first and may not feel very 
hungry at first. This will improve over time. You may supplement 
your diet with protein shakes as needed if you do not feel you 
are taking in enough nutrition.

Activity:You may resume all of your normal home activities, 
except for straining or lifting heavy weight. We recommend you 
resume walking, exercise, bathing, per your normal regimen. 

Warning signs:
You should contact our clinic or return to the ED immediately if 

you experience any of the following signs or symptoms:
Fever above 100.5
Worsening pain
Worsening GI upset, nausea/vomiting, diarrhea
Change in the appearance of your incision, or redness, swelling, 

or change in drainage from your incision
Any other symptoms that concern you

You can contact our clinic at any time with questions or 
concerns. You should be seen in our clinic for follow up 
following your discharge from the hospital. 
 Best wishes,
 Your ___ Care Team

 
Followup Instructions:
___